US07390809B2
Step B: 7-N-(tert-Butoxycarbonyl)-8-methyl-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine
To a solution of 7-N-(tert-butoxycarbonyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine (1.85 g, 6.35 mmol) in 25 mL of toluene at −78° C. was added N,N,N,N-tetramethylethylenediamine (1.01 mL, 6.67 mmol) followed by n-butyllithium (4.17 mL of a 1.6 M solution in hexanes, 6.67 mmol). The mixture was stirred at −78° C. for 10 min and then iodomethane (0.415 mL, 6.67 mmol) was added dropwise. The mixture was allowed to stir at −78° C. for 10 min, and then it was warmed to ambient temperature. The reaction was quenched with aqueous ammonium chloride and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, and concentrated. Purification by flash chromatography (silica gel, 10% ethyl acetate/hexane) yielded the title compound.

reactant | 7-N-(tert-butoxycarbonyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | 6.35 mmol, 1.85 g | C(C)(C)(C)OC(=O)N1CC=2N(CC1)N=C(N2)C(F)(F)F | C11H15F3N4O2
reactant | N,N,N,N-tetramethylethylenediamine | 6.67 mmol, 1.01 mL | CN(C)CCN(C)C | C6H16N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | iodomethane | 6.67 mmol, 0.415 mL | IC | CH3I
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 7-N-(tert-Butoxycarbonyl)-8-methyl-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | C(C)(C)(C)OC(=O)N1C(C=2N(CC1)N=C(N2)C(F)(F)F)C | C12H17F3N4O2
